### PR TITLE
[Merged by Bors] - chore: use `IsLUB` `IsGLB` in `ConditionallyCompleteLattice`

### PR DESCRIPTION
**Pull request by astrainfinita**
Also, some docstrings in `Order.ConditionallyCompleteLattice.Defs` are outdated (they still use Lean3 structure notation).
#36671 is an orthogonal PR to fix this.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Int/ConditionallyCompleteOrder.lean [hunk 1]
```diff
@@ -34,22 +34,12 @@ instance instConditionallyCompleteLinearOrder : ConditionallyCompleteLinearOrder
...
-    have : s.Nonempty ∧ BddBelow s := ⟨⟨n, hns⟩, hs⟩
-    simp only [dif_pos this]
-    exact (leastOfBdd _ _ _).2.2 n hns
-  le_csInf s n hs hns := by
-    have : s.Nonempty ∧ BddBelow s := ⟨hs, ⟨n, hns⟩⟩
-    simp only [dif_pos this]
-    exact hns (leastOfBdd _ (Classical.choose_spec this.2) _).2.1
+  isLUB_csSup _ hn hb := by
+    rw [dif_pos ⟨hn, hb⟩]
+    exact (isGreatest_coe_greatestOfBdd _ _ _).isLUB
```
Comment (vihdzp) [inline Mathlib/Data/Int/ConditionallyCompleteOrder.lean]: Does this work? Same below.
```suggestion
    exact (isGreatest_coe_greatestOfBdd ..).isLUB
```

File: Mathlib/Order/ConditionallyCompleteLattice/Basic.lean [hunk 2]
```diff
@@ -230,8 +230,8 @@ theorem IsGLB.csInf_eq (H : IsGLB s a) (ne : s.Nonempty) : sInf s = a :=
 
 instance (priority := 100) ConditionallyCompleteLattice.toConditionallyCompletePartialOrder :
     ConditionallyCompletePartialOrder α where
-  isGLB_csInf_of_directed _ _ non bdd := isGLB_csInf non bdd
-  isLUB_csSup_of_directed _ _ non bdd := isLUB_csSup non bdd
+  isGLB_csInf_of_directed _ _ non bdd := isGLB_csInf _ non bdd
```
Comment (vihdzp) [inline Mathlib/Order/ConditionallyCompleteLattice/Basic.lean]: Does this work? Same below.
```suggestion
  isGLB_csInf_of_directed _ _ := isGLB_csInf _
```

File: Mathlib/Order/ConditionallyCompleteLattice/Defs.lean [hunk 3]
```diff
@@ -244,11 +203,29 @@ def conditionallyCompleteLatticeOfLatticeOfsSup (α : Type*) [H1 : Lattice α] [
...
+    ConditionallyCompleteLinearOrderBot α :=
+  letI : InfSet α := ⟨fun s => if hs : s.Nonempty then h.wf.min s hs else ⊥⟩
+  { i₁, i₂, LinearOrder.toLattice,
+    conditionallyCompleteLatticeOfLatticeOfsInf _ fun s _ hn ↦ by
+      dsimp; rw [dif_pos hn]
+      exact IsLeast.isGLB ⟨h.wf.min_mem s hn, fun _ hx ↦ h.wf.min_le hx hn⟩ with
+    csSup_empty := by
+      simpa [sSup] using eq_bot_iff.2 (not_lt.1 <| h.wf.not_lt_min _ _ <| mem_univ ⊥)
+    csSup_of_not_bddAbove s H := by
+      have B : ¬((upperBounds s).Nonempty) := H
```
Comment (vihdzp) [inline Mathlib/Order/ConditionallyCompleteLattice/Defs.lean]:
```suggestion
      have B : ¬(upperBounds s).Nonempty := H
```
Feels weird to have this. Is there perhaps some missing theorem to rewrite `H`?

File: Mathlib/Order/ConditionallyCompleteLattice/Defs.lean [hunk 4]
```diff
@@ -244,11 +203,29 @@ def conditionallyCompleteLatticeOfLatticeOfsSup (α : Type*) [H1 : Lattice α] [
...
+      simp only [sSup, B, dite_false, upperBounds_empty, univ_nonempty, dite_true]
+      exact le_antisymm bot_le (WellFounded.min_le _ (mem_univ _))
```
Comment (vihdzp) [inline Mathlib/Order/ConditionallyCompleteLattice/Defs.lean]:
```suggestion
      exact le_bot_iff.1 (WellFounded.min_le _ (mem_univ _))
```
Can this be made into a single `simpa using ...`?

File: Mathlib/Order/ConditionallyCompleteLattice/Defs.lean [hunk 5]
```diff
@@ -142,7 +108,7 @@ instance : ConditionallyCompleteLattice my_T :=
     ..conditionallyCompleteLatticeOfsSup my_T _ }
 ```
 -/
-def conditionallyCompleteLatticeOfsSup (α : Type*) [H1 : PartialOrder α] [H2 : SupSet α]
+abbrev conditionallyCompleteLatticeOfsSup (α : Type*) [H1 : PartialOrder α] [H2 : SupSet α]
```
Comment (vihdzp) [inline Mathlib/Order/ConditionallyCompleteLattice/Defs.lean]: If it doesn't increase the diff too much, could you make these into `while` blocks?

**Review by vihdzp — APPROVED** [review]
LGTM, just some style remarks which are again, safely ignored.

File: Mathlib/Order/ConditionallyCompleteLattice/Defs.lean [hunk 6]
```diff
@@ -258,3 +215,19 @@ def conditionallyCompleteLatticeOfLatticeOfsInf (α : Type*) [H1 : Lattice α] [
...
+  letI : InfSet α := ⟨fun s => if hs : s.Nonempty then h.wf.min s hs else ⊥⟩
+  { i₁, i₂, LinearOrder.toLattice,
+    conditionallyCompleteLatticeOfLatticeOfsInf _ fun s _ hn ↦ by
+      dsimp; rw [dif_pos hn]
+      exact IsLeast.isGLB ⟨h.wf.min_mem s hn, fun _ hx ↦ h.wf.min_le hx hn⟩ with
+    csSup_empty := by simpa [sSup, ← le_bot_iff] using WellFounded.min_le _ (mem_univ _)
+    csSup_of_not_bddAbove s H := by
+      rw [BddAbove] at H
+      simpa [sSup, H, eq_comm (a := ⊥), ← le_bot_iff] using WellFounded.min_le _ (mem_univ _)
+    csInf_of_not_bddBelow := fun s H ↦ (H (OrderBot.bddBelow s)).elim }
```
Comment (Komyyy) [inline Mathlib/Order/ConditionallyCompleteLattice/Defs.lean]:
```suggestion
    ConditionallyCompleteLinearOrderBot α where
  __ := i₁
  __ := i₂
  __ := LinearOrder.toLattice
  __ :=
    letI : InfSet α := ⟨fun s => if hs : s.Nonempty then h.wf.min s hs else ⊥⟩
    conditionallyCompleteLatticeOfLatticeOfsInf _ fun s _ hn ↦ by
      simp only [dif_pos hn]
      exact IsLeast.isGLB ⟨h.wf.min_mem s hn, fun _ hx ↦ h.wf.min_le hx hn⟩
  csSup_empty := by simp [sSup, bot_unique (WellFounded.min_le _ (mem_univ _))]
  csSup_of_not_bddAbove s H := by
    rw [BddAbove] at H
    simp [sSup, H, bot_unique (WellFounded.min_le _ (mem_univ _))]
  csInf_of_not_bddBelow s H := (H (OrderBot.bddBelow s)).elim
```

1. We can put the `InfSet α` instance into the `conditionallyCompleteLatticeOfLatticeOfsInf` block.
2. `dsimp; rw [dif_pos hn]` -> `simp only [dif_pos hn]`
3. We can prove more directly with `bot_unique (WellFounded.min_le _ (mem_univ _))`.

File: Mathlib/Order/ConditionallyCompleteLattice/Defs.lean
Comment (Komyyy) [inline Mathlib/Order/ConditionallyCompleteLattice/Defs.lean:1]: Also, some docstrings in this file are outdated (they still use Lean3 structure notation).
I've created the orthogonal PR #36671 to fix it.

Could you mention this in the PR description? For example:
```markdown
Also, some docstrings in `Order.ConditionallyCompleteLattice.Defs` are outdated (they still use Lean3 structure notation).
#36671 is an orthogonal PR to fix this.
```

File: Mathlib/Order/Copy.lean [hunk 7]
```diff
@@ -284,7 +284,5 @@ def ConditionallyCompleteLattice.copy (c : ConditionallyCompleteLattice α)
     le eq_le sup eq_sup inf eq_inf
   sSup := sSup
   sInf := sInf
-  le_csSup := by intro _ _ hb h; subst_vars; exact le_csSup _ _ hb h
-  csSup_le := by intro _ _ hb h; subst_vars; exact csSup_le _ _ hb h
-  csInf_le := by intro _ _ hb h; subst_vars; exact csInf_le _ _ hb h
-  le_csInf := by intro _ _ hb h; subst_vars; exact le_csInf _ _ hb h
+  isLUB_csSup := by simpa +instances only [eq_le, eq_sSup] using c.isLUB_csSup
+  isGLB_csInf := by simpa +instances only [eq_le, eq_sInf] using c.isGLB_csInf
```
Comment (Komyyy) [inline Mathlib/Order/Copy.lean]:
```suggestion
  isLUB_csSup := by subst_vars; exact c.isLUB_csSup
  isGLB_csInf := by subst_vars; exact c.isGLB_csInf
```
This proof is faster.

File: Mathlib/Order/ConditionallyCompleteLattice/Basic.lean [hunk 8]
```diff
@@ -183,17 +179,27 @@ section ConditionallyCompleteLattice
...
+theorem isLUB_csSup (hn : s.Nonempty) (hb : BddAbove s) : IsLUB s (sSup s) :=
+  ConditionallyCompleteLattice.isLUB_csSup _ hn hb
+
+theorem isGLB_csInf (hn : s.Nonempty) (hb : BddBelow s) : IsGLB s (sInf s) :=
+  ConditionallyCompleteLattice.isGLB_csInf _ hn hb
+
+theorem le_csSup (h₁ : BddAbove s) (h₂ : a ∈ s) : a ≤ sSup s := by
+  obtain rfl | hn := s.eq_empty_or_nonempty
+  · simp only [mem_empty_iff_false] at h₂
+  · exact (isLUB_csSup hn h₁).1 h₂
```
Comment (Komyyy) [inline Mathlib/Order/ConditionallyCompleteLattice/Basic.lean]: More direct proof:
```suggestion
theorem le_csSup (h₁ : BddAbove s) (h₂ : a ∈ s) : a ≤ sSup s :=
  (isLUB_csSup (nonempty_of_mem h₂) h₁).1 h₂
```

File: Mathlib/Order/ConditionallyCompleteLattice/Basic.lean [hunk 9]
```diff
@@ -183,17 +179,27 @@ section ConditionallyCompleteLattice
...
 theorem csSup_le (h₁ : s.Nonempty) (h₂ : ∀ b ∈ s, b ≤ a) : sSup s ≤ a :=
-  ConditionallyCompleteLattice.csSup_le s a h₁ h₂
+  (isLUB_csSup h₁ ⟨a, h₂⟩).2 h₂
 
-theorem csInf_le (h₁ : BddBelow s) (h₂ : a ∈ s) : sInf s ≤ a :=
-  ConditionallyCompleteLattice.csInf_le s a h₁ h₂
+theorem csInf_le (h₁ : BddBelow s) (h₂ : a ∈ s) : sInf s ≤ a := by
+  obtain rfl | hn := s.eq_empty_or_nonempty
+  · simp only [mem_empty_iff_false] at h₂
+  · exact (isGLB_csInf hn h₁).1 h₂
```
Comment (Komyyy) [inline Mathlib/Order/ConditionallyCompleteLattice/Basic.lean]: More direct proof:
```suggestion
theorem csInf_le (h₁ : BddBelow s) (h₂ : a ∈ s) : sInf s ≤ a :=
  (isGLB_csInf (nonempty_of_mem h₂) h₁).1 h₂
```

**Review by Komyyy — CHANGES_REQUESTED** [review]
Thank you for your contribution!

**Review by Komyyy — APPROVED** [review]
Thank you!

maintainer merge

<details>

<summary>For reviewers: what I confirmed</summary>

* The new docstrings for fields of `ConditionallyCompleteLattice` are consistent with those of `CompleteLattice`
* Confirmed that the proof of `conditionallyCompleteLatticeOfs(Sup|Inf)` could't be golfed further (Loogle [`_ ∈ ({_, _} : Set _)`](https://loogle.lean-lang.org/?q=_+%E2%88%88+%28%7B_%2C+_%7D+%3A+Set+_%29), [`IsLUB {_, _} _`](https://loogle.lean-lang.org/?q=IsLUB+%7B_%2C+_%7D+_))

</details>

**Review by Vierkantor — APPROVED** [review]
Thanks!

bors r+
